US08334295B2
Carbamic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-3-(4-methoxy-benzyl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester:
Trichloro-isocyanato-methane (39 uL, 0.33 mmol, 2.0 eq) was added to 3-[3-(2-hydroxy-ethyl)-5-isopropyl-1-(4-methoxy-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile (76 mg, 0.165 mmol) in 2 mL of DCM. The reaction mixture was stirred at room temperature for 10 minutes. HPLC and LC-MS showed complete reaction of the starting materials. Ammonia gas was bubbled into 3 mL DCM in a test tube (keep bubbling for 5 minutes). The ammonia solution was added to the above reaction mixture. The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was filtered and concentrated down and purified (silica gel, 0-80% EtOAC/hexane) to give a white powder (42 mg, 51%). LC-MS shows 505.0 (M+1).

reactant | Trichloro-isocyanato-methane | 0.33 mmol, 39 uL, 2.0 eq | ClC(N=C=O)(Cl)Cl | C2Cl3NO
reactant | 3-[3-(2-hydroxy-ethyl)-5-isopropyl-1-(4-methoxy-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile | 0.165 mmol, 76 mg | OCCN1C(N(C(C(=C1C(=O)C=1C=C(C#N)C=C(C1)C)C(C)C)=O)CC1=CC=C(C=C1)OC)=O | C26H27N3O5
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | Carbamic acid 2-[6-(3-cyano-5-methyl-benzoyl)-5-isopropyl-3-(4-methoxy-benzyl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-ethyl ester | 42 mg, 51% | C(#N)C=1C=C(C(=O)C2=C(C(N(C(N2CCOC(N)=O)=O)CC2=CC=C(C=C2)OC)=O)C(C)C)C=C(C1)C | C27H28N4O6
